US05021436
A THF solution (25 ml) of 2-[(2,2-diethoxyethyl)-thio]methyl-3-carboethoxy-5-carbomethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine (5 g), hydroquinone (0.5 g), and oxalic acid (1N water solution, 10 ml) is heated to the reflux temperature, under N2 atmosphere, for one hour, then the THF is evaporated in vacuum and the water layer is extracted with AcOEt (3×20 ml). The organic phases are washed with water (2×5 ml), a satured solution of NaHCO3 (2×5 ml) and water (3×5 ml), dried on Na2SO4 and evaporated to dryness. The residue, after purification by column chromatography (SiO2 120 g; eluent: hexane/isopropyl ether 70/30), yields 3.8 g of pure 2-[(formylmethyl)thio]methyl-3-carboethoxy-5-carbomethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine, oil.

reactant | 2-[(2,2-diethoxyethyl)-thio]methyl-3-carboethoxy-5-carbomethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 5 g | C(C)OC(CSCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C)OCC | C24H32N2O8S
reactant | hydroquinone | 0.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | oxalic acid | 1N, 10 ml | C(C(=O)O)(=O)O | C2H2O4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-[(formylmethyl)thio]methyl-3-carboethoxy-5-carbomethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 3.8 g | C(=O)CSCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C20H22N2O7S
